US20010016657A1
3-Methanesulfonyl-4-iso-propylbenzoic acid
3-Chlorosulfonyl-4iso-propylbenzoic acid (2.62 g, 10 mmol) [made from 4iso-propyl benzoic acid in a manner similar to that described in Procedures 7 and 8] was added slowly to a slurry of NaHCO3 (2.52 g, 30 mmol) and Na2SO3 (1.26 g 10 mmol) in water (9 ml) at 75° C. The mixture was stirred for 1 h and then treated with bromoacetic acid (2.08 g, 15 mmol) and NaOH (0.60 g, 15 mmol). The temperature was raised to 105° C. and the mixture heated at reflux for 24 h. The mixture was cooled, acidified to pH 1 and the resultant precipitate collected, washed and dried to give the title compound (1.43 g, 59%).

reactant | 3-Chlorosulfonyl-4iso-propylbenzoic acid | 10 mmol, 2.62 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1C(C)C | C10H11ClO4S
reactant | 4iso-propyl benzoic acid | C(C)(C)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | NaHCO3 | 30 mmol, 2.52 g | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 10 mmol, 1.26 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | bromoacetic acid | 15 mmol, 2.08 g | BrCC(=O)O | C2H3BrO2
reactant | NaOH | 15 mmol, 0.60 g | [OH-].[Na+]
solvent | water | 9 ml | O | H2O
product | 3-Methanesulfonyl-4-iso-propylbenzoic acid | 1.43 g, 59% | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1C(C)C | C11H14O4S
